US07741315B2
Step 2: 11-(3-Chloro-4-fluorobenzyl)-9-methoxy-2-methyl-5,6,12,13-tetrahydro-2H[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,4,8,10(3H, 11H)-tetrone
A mixture of 11-(3-chloro-4-fluorobenzyl)-4-hydroxy-9-methoxy-2-methyl-3,4,5,6,12,13-hexahydro-2H[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,8,10(11H)-trione (50 mg, 0.11 mmol), molecular sieves (4A), N-methylmorpholine N-oxide (19 mg, 0.16 mmol), and tetra-n-propylammonium ruthenium tetroxide in dichloromethane was stirred at room temperature for two hrs. The mixture was filtered, and the filtrate concentrated under vacuum. The residue was subjected to column chromatography on silica gel eluting with 0-15% methanol in dichloromethane gradient. Collection and concentration of appropriate fractions provided the title compound.

reactant | 11-(3-chloro-4-fluorobenzyl)-4-hydroxy-9-methoxy-2-methyl-3,4,5,6,12,13-hexahydro-2H[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,8,10(11H)-trione | 0.11 mmol, 50 mg | ClC=1C=C(CN2C(C3=C(C(N4C(=C3CC2)C(N(CC(CC4)O)C)=O)=O)OC)=O)C=CC1F | C22H23ClFN3O5
reactant | N-methylmorpholine N-oxide | 0.16 mmol, 19 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | tetra-n-propylammonium ruthenium | [Ru+3].C(CC)[N+](CCC)(CCC)CCC
product | 11-(3-Chloro-4-fluorobenzyl)-9-methoxy-2-methyl-5,6,12,13-tetrahydro-2H[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,4,8,10(3H, 11H)-tetrone | ClC=1C=C(CN2C(C3=C(C(N4C(=C3CC2)C(N(CC(CC4)=O)C)=O)=O)OC)=O)C=CC1F | C22H21ClFN3O5
